US07589206B2
b) 2-(2-Hydroxy-1-methoxycarbonyl-vinyl)-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester
2-Methoxycarbonylmethyl-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester (5.7 g) in dry tetrahydrofuran (100 ml) was stirred at room temperature under argon. Sodium hydride (60% dispersion in mineral oil, 7.13 g) was added portionwise followed by methyl formate (2.5 ml) and the mixture was left to stir overnight. The reaction was cooled in ice and quenched by the addition of the minimum amount of methanol. The solution was again cooled and acidified to pH1 with aqueous 5N hydrochloric acid. The reaction was diluted with ethyl acetate and water, the aqueous separated and extracted three times with ethyl acetate. The combined organic layers were then washed with brine, dried (MgSO4) and filtered. The solvent was evaporated to yield an oil consisting of two layers. The top layer was discarded and the lower layer solidified on standing to give the crude title compound as a brown solid (8.62 g).

reactant | 2-Methoxycarbonylmethyl-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester | 5.7 g | COC(=O)C1=C(N(C=C1)C)CC(=O)OC | C10H13NO4
reactant | Sodium hydride | 7.13 g | [H-].[Na+]
reactant | methyl formate | 2.5 ml | C(=O)OC | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-Hydroxy-1-methoxycarbonyl-vinyl)-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester | 8.62 g | COC(=O)C1=C(N(C=C1)C)C(=CO)C(=O)OC | C11H13NO5
